US07531532B2
4-(2-Fluoro-4-nitrophenoxy)pyridin-2-ylamine (200 mg) was dissolved in tetrahydrofuran (8 ml) under a nitrogen atmosphere, and then triethylamine (0.336 ml) and phenyl chloroformate (0.302 ml) were added dropwise thereto at room temperature, followed by stirring for 30 min. The reaction mixture was concentrated under a reduced pressure to give a residue, which was then dissolved in N,N-dimethylformamide (5 ml). N-methyl-N-[3-(4-methylpiperazin-1-yl)propyl]amine (0.300 ml) was added thereto, followed by stirring at room temperature overnight. N-methyl-N-[3-(4-methylpiperazin-1-yl)propyl]amine (0.200 ml) was further added thereto, followed by stirring at room temperature for 1 day. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of ammonium chloride. The organic layer was washed with a saturated aqueous solution of ammonium chloride, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; heptane:ethyl acetate=1:1). The solvent was evaporated under a reduced pressure to provide a crude product of 3-[4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl]-1-methyl-1-[3-(4-methylpiperazin-1-yl)propyl]urea. The crude product (357 mg) was dissolved in tetrahydrofuran (8 ml)-methanol (8 ml), and then 10% palladium carbon (170 mg) was added thereto under a nitrogen atmosphere, followed by replacing with hydrogen inside the system and stirring for 2 hrs. After replacing with nitrogen inside the system, the reaction mixture was filtered to remove the catalyst, which was washed with methanol. The filtrate was concentrated under a reduced pressure to give a residue, which was purified by silica gel column chromatography (Fuji Silysia NH, eluent; heptane:ethyl acetate=1:1, then ethyl acetate). Fractions containing the target compound were concentrated to give a residue, which was then suspended in diethyl ether-hexane (2:1). The solid was filtered and dried under aeration to provide the titled compound (91.0 mg, 27.3%) as pale yellow powder.

reactant | 4-(2-Fluoro-4-nitrophenoxy)pyridin-2-ylamine | 200 mg | FC1=C(OC2=CC(=NC=C2)N)C=CC(=C1)[N+](=O)[O-] | C11H8FN3O3
reactant | triethylamine | 0.336 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.302 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | N-methyl-N-[3-(4-methylpiperazin-1-yl)propyl]amine | 0.300 ml | CNCCCN1CCN(CC1)C | C9H21N3
reactant | N-methyl-N-[3-(4-methylpiperazin-1-yl)propyl]amine | 0.200 ml | CNCCCN1CCN(CC1)C | C9H21N3
reactant | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-[4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl]-1-methyl-1-[3-(4-methylpiperazin-1-yl)propyl]urea | FC1=C(OC2=CC(=NC=C2)NC(N(CCCN2CCN(CC2)C)C)=O)C=CC(=C1)[N+](=O)[O-] | C21H27FN6O4
